US06448236B1
(2S,3S,4R,5R)-5-{6-[(2,2-Diphenylethyl)amino]-2-[({[2-(1-piperidinyl)ethyl]sulfonyl}amino)methyl]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
2-Chloroethanesulfonyl chloride (0.12 ml, 1.16 mmol) was added to a solution of (2S,3S,4R,5R)-5-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide (Preparation 27) (600 mg, 1.16 mmol) in a mixture of pyridine (2.5 ml ) and acetonitrile (10 ml). The reaction mixture was stirred for 1 hour at room temperature. Piperidine (1.0 ml, 10 mmol) was then added and the reaction mixture was heated under reflux for 16 hours. The reaction mixture was then diluted with ethyl acetate (50 ml) and washed with water (30 ml). The ethyl acetate layer was dried (anhydrous magnesium sulphate) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:5:0.5 by volume) increasing in polarity to dichloromethane:methanol:ammonia (90:10:1 by volume). The solvent was removed under reduced pressure and the residue repurified by column chromatography on silica gel eluting with ethyl acetate:methanol:ammonia (95:5:0.5 by volume) increasing in polarity to ethyl acetate:methanol:ammonia (90:10:1 by volume). The solvent was removed under reduced pressure and the residue was repurified by column chromatography on silica gel eluting with ethyl acetate:methanol (95:5 by volume) increasing in polarity to ethyl acetate:methanol (90:10 by volume) then ethyl acetate:methanol:ammonia (90:10:1 by volume). The solvent was removed under reduced pressure to give the title compound (21 mg).

reactant | 2-Chloroethanesulfonyl chloride | 1.16 mmol, 0.12 ml | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | (2S,3S,4R,5R)-5-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 1.16 mmol, 600 mg | NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N7O4
reactant | Piperidine | 10 mmol, 1.0 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S,3S,4R,5R)-5-{6-[(2,2-Diphenylethyl)amino]-2-[({[2-(1-piperidinyl)ethyl]sulfonyl}amino)methyl]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 21 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNS(=O)(=O)CCN1CCCCC1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)C1=CC=CC=C1 | C34H44N8O6S
